US06458802B1
6-Fluoro-2-[4-(1H-indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-2,3-dihydro[1,4]dioxino[2,3-f]quinoline
0.40 g (1.02 mmole) of (2R)-6-fluoro-2,3-dihydro[1,4]dioxino[2,3-f]-quinolin-2-ylmethyl 4-methylbenzenesulfonate and 0.80 g (4.06 mmole) of 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole were combined in 50 mL of DMSO. The mixture was heated at 75-80° C. under nitrogen for 6 hours. After cooling to room temperature, the mixture was partitioned between 400 mL each of ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was removed, washed with saturated brine, dried over magnesium sulfate, filtered and concentrated to a crude oil under vacuum. This oil was column chromatographed on silica gel using first 1% methanol in methylene chloride to elute impurities and then 5% methanol in methylene chloride to elute the product. The product-containing fractions were concentrated in vacuum to give 0.085 g of the (S)-enantiomer of the title compound as a yellow solid (m.p. 215° C.).

reactant | (2R)-6-fluoro-2,3-dihydro[1,4]dioxino[2,3-f]-quinolin-2-ylmethyl 4-methylbenzenesulfonate | 1.02 mmole, 0.40 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1COC=2C(=C3C=CC=NC3=C(C2)F)O1 | C19H16FNO5S
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 4.06 mmole, 0.80 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
solvent | DMSO | 50 mL | CS(=O)C | C2H6OS
product | 6-Fluoro-2-[4-(1H-indol-3-yl)-3,6-dihydro-2H-pyridin-1-ylmethyl]-2,3-dihydro[1,4]dioxino[2,3-f]quinoline | FC=1C=C2C(=C3C=CC=NC13)OC(CO2)CN2CCC(=CC2)C2=CNC1=CC=CC=C21 | C25H22FN3O2
